US06828460B2
trans-4-(2,4-Dihydroxyphenyl)cyclohexanol
4-(2,4-Dihydroxyphenyl)cyclohexanone (18 mg) was placed in a round-bottomed flask equipped with magnetic stirrer. Ethanol (5 ml) was added, followed by sodium borohydride (3.3 mg), and the reaction mixture was stirred for 16 hr. Aqueous HCl (20 ml, 1M), followed by ethyl acetate (20 ml), was added, and the organic phase removed and washed with brine (15 ml), dried over anhydrous magnesium sulphate, filtered, and then concentrated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate/petroleum ether, 60:40, v/v) to afford the title compound (14 mg, 78%) as a white solid. δH(CD3OD) 1.38-1.56 (4H, m), 1.85-1.88 (2H, m), 2.04-2.07 (2H, m), 2.80 (1H, tt), 3.58-3.65 (1H, m), 6.24-6.29 (2H, m), 6.90 (1H, d); m/z (ES−) 267 ((M+AcOH)−1)

reactant | 4-(2,4-Dihydroxyphenyl)cyclohexanone | 18 mg | OC1=C(C=CC(=C1)O)C1CCC(CC1)=O | C12H14O3
reactant | Ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium borohydride | 3.3 mg | [BH4-].[Na+]
reactant | HCl | 1M, 20 ml | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | trans-4-(2,4-Dihydroxyphenyl)cyclohexanol | 14 mg, 78% | OC1=C(C=CC(=C1)O)[C@@H]1CC[C@H](CC1)O | C12H16O3
